US07087626B2
Dimethyl-{3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-benzyl}-amine
To a refluxing mixture of Raney-nickel and hydrazine-monohydrate (0.5 mL, 10.17 mmol) in methanol (5 mL) is added N,N-dimethyl-3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-thiobenzamide (311.0 mg, 0.63 mmol) in methanol (20 mL). The mixture is stirred 10 min and cooled to room temperature, filtered, and concentrated in vacuo. The residue is chromatographed by HPLC (C18 column) to yield the title compound, 60.2 mg (20%).

reactant | hydrazine-monohydrate | 10.17 mmol, 0.5 mL | O.NN
reactant | N,N-dimethyl-3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-thiobenzamide | 0.63 mmol, 311.0 mg | CN(C(C1=CC(=CC=C1)OC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2)=S)C | C29H25N5OS
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
catalyst | Raney-nickel | [Ni] | Ni
product | Dimethyl-{3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-benzyl}-amine | CN(CC1=CC(=CC=C1)OC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2)C | C29H27N5O
